US05602170
Synthesis of 5-(3-hydroxy-1-butynyl) -2,2 '-bithiophene
To the mixture of 1 g (14.3 mmole) of 3-hydroxy-1-butyne, 10 ml of benzene and 2.78 g of 5-iodo-2,2'-bithiophene (9.52 mmole) was added 0.15 g of CuI, 0.15 g of benzyltriethylammonium chloride, 0.2 g of Pd(PPh3)4 and then 15 ml of NaOH solution (2.5N) at room temperature and stirred for 2 hours. 4 ml of NH4Cl solution was then added. The reaction solution was extracted with ethyl acetate. The extract was washed with 10 ml of HCl (10%) for 3 times, 50 ml of water twice, and dried over anhydrous magnesium sulfate. The crude product was purified by silica gel column chromatography. From the eluate of ethyl acetate/n-hexane (3/1) 2.07 g of yellow solid product (93%) was obtained.

reactant | 3-hydroxy-1-butyne | 14.3 mmole, 1 g | OC(C#C)C | C4H6O
reactant | 5-iodo-2,2'-bithiophene | 9.52 mmole, 2.78 g | IC1=CC=C(S1)C=1SC=CC1 | C8H5IS2
reactant | NaOH | 2.5N, 15 ml | [OH-].[Na+]
reactant | NH4Cl | 4 ml | [NH4+].[Cl-]
catalyst | benzyltriethylammonium chloride | 0.15 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
catalyst | CuI | 0.15 g | [Cu]I
catalyst | Pd(PPh3)4 | 0.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 5-(3-hydroxy-1-butynyl) -2,2 '-bithiophene | 93% | OC(C#CC1=CC=C(S1)C=1SC=CC1)C | C12H10OS2
